US08198279B2
Method D2 was used with tert-butyl 4-(2,3-diaminopyridin-4-yloxy)naphthalen-1-ylcarbamate to afford a mixture of isomers. The residue was chromatographied (eluent: CH2Cl2/EtOAc: 6/1 towards 0/1 then EtOAc/MeOH: 95/5) to afford at first tert-butyl 4-(2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)naphthalen-1-ylcarbamate as a slightly yellow solid (401 mg, 0.958 mmol, 35%) and then tert-butyl 4-(3-methyl-2-oxo-1,2-dihydropyrido[2,3-b]pyrazin-8-yloxy)naphthalen-1-ylcarbamate as a yellow solid (607 mg, 1.45 mmol, 53%).

reactant | tert-butyl 4-(2,3-diaminopyridin-4-yloxy)naphthalen-1-ylcarbamate | NC1=NC=CC(=C1N)OC1=CC=C(C2=CC=CC=C12)NC(OC(C)(C)C)=O | C20H22N4O3
reactant | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | EtOAc MeOH | CCOC(=O)C.CO
product | tert-butyl 4-(2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)naphthalen-1-ylcarbamate | CC1=NC2=C(NC1=O)N=CC=C2OC2=CC=C(C1=CC=CC=C21)NC(OC(C)(C)C)=O | C23H22N4O4
